US07115769B2
In one incarnation of the present invention, as illustrated below, the cysteine derivative is 2(R)-(benzhydrylidene-amino)-3-tritylsulfanyl-propionic acid tert-butyl ester. 2(R)-(Benzhydrylidene-amino)-3-tritylsulfanyl-propionic acid tert-butyl ester can be formed by the following process: (1) 2(R)-(9H-Fluoren-9-ylmethoxycarbonylamino)-3-tritylsulfanyl-propionic acid (i.e., (R)-cysteine with Fmoc a protected amino group and with a trityl protected —SH group), is reacted with t-butyl alcohol and dicyclohexyl carbodiimide (DCC) in 4-(dimethylamino)pyridine (DMAP) and tetrahydrofuran (THF) at room temperature to form 2(R)-(9H-fluoren-9-ylmethoxycarbonylamino)-3-tritylsulfanyl-propionic acid tert-butyl ester; (2) the Fmoc group is removed from the 2(R)-(9H-fluoren-9-ylmethoxycarbonylamino)-3-tritylsulfanyl-propionic acid tert-butyl ester using either diethylamine in dichloromethane or piperidine in dichloromethane to form 2(R)-amino-3-tritylsulfanyl-propionic acid tert-butyl ester; and (3) the 2(R)-amino-3-tritylsulfanyl-propionic acid tert-butyl ester is reacted with benzhydrylideneamine in dichloromethane at room temperature to form 2(R)-(benzhydrylidene-amino)-3-tritylsulfanyl-propionic acid tert-butyl ester.

reactant | 2(R)-(9H-Fluoren-9-ylmethoxycarbonylamino)-3-tritylsulfanyl-propionic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H31NO4S
reactant | (R)-cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | t-butyl alcohol | C(C)(C)(C)O | C4H10O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2(R)-(9H-fluoren-9-ylmethoxycarbonylamino)-3-tritylsulfanyl-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C41H39NO4S
